US06828330B2
2-Chloro-6-(hydroxymethyl)-3-pyridinol (C10) (11.6 g, 72.7 mmol) and NaHCO3 (18.3 g, 218 mmol) are added to 200 mL water. The mixture is stirred until homogeneous, the flask is placed in an ice bath, iodine (19.4 g, 76.3 mmol) is added, and the reaction is stirred over the weekend at rt. The pH of the mixture is adjusted to 3 with 2N NaHSO4, and the mixture is extracted with 4×50 mL EtOAc. The combined organic layer is dried over anhydrous MgSO4, is filtered and the filtrate is concentrated in vacuo to a yellow solid. The crude solid is washed with EtOAc to provide 2-chloro-6-(hydroxymethyl)-4-iodo-3-pyridinol (C12) as an off-white solid (62% yield), and the filtrate is concentrated to a small volume and is chromatographed over 250 g silica gel (230-400 mesh) eluting with 2.5:4.5:4:0.1 EtOAc/CH2Cl2/hexane/acetic acid. The desire fractions are combined and concentrated to afford an additional pure C12 (12% yield). MS (EI) for C6H5ClINO2, m/z: 285(M)+.

reactant | 2-Chloro-6-(hydroxymethyl)-3-pyridinol | 72.7 mmol, 11.6 g | ClC1=NC(=CC=C1O)CO | C6H6ClNO2
reactant | NaHCO3 | 218 mmol, 18.3 g | C(=O)(O)[O-].[Na+]
reactant | iodine | 76.3 mmol, 19.4 g | II | I2
reactant | NaHSO4 | 2N | OS(=O)(=O)[O-].[Na+]
solvent | water | 200 mL | O | H2O
product | 2-chloro-6-(hydroxymethyl)-4-iodo-3-pyridinol | 62% yield | ClC1=NC(=CC(=C1O)I)CO | C6H5ClINO2
